US09326973B2
To a solution of ethyl 2-oxopropanoate (0.581 g, 5 mmol) and 2,2-dimethylpropane-1,3-diol (0.521 g, 5.00 mmol) in acetonitrile (5 mL) cooled to 0° C. was added BF3.OEt2 (0.063 mL, 0.500 mmol), and the mixture was allowed to warm to rt and stirred at rt for 18 h. The reaction mixture was quenched with sat. NaHCO3 (5 mL) and diluted with ether/hexane (1:1, 20 mL). The organic layer was washed with water, brine and dried (MgSO4). The solvent was evaporated to yield ethyl 2,5,5-trimethyl-1,3-dioxane-2-carboxylate as a clear oil (681 mg). 1H NMR (500 MHz, CDCl3) δ ppm 4.31 (2H, q, J=7.07 Hz), 3.48-3.58 (4H, m), 1.55 (3H, s), 1.35 (3H, t, J=7.17 Hz), 1.22 (3H, s), 0.69-0.75 (3H, m). Ethyl 2,5,5-trimethyl-1,3-dioxane-2-carboxylate (90 mg) was saponified (1 N NaOH, MeOH-THF) to afford Cap P-24 (69 mg). 1H NMR (500 MHz, CDCl3) δ ppm 3.53-3.64 (4H, m), 1.63 (3H, s), 1.23 (3H, s), 0.78 (3H, s).

reactant | ethyl 2-oxopropanoate | 5 mmol, 0.581 g | O=C(C(=O)OCC)C | C5H8O3
reactant | 2,2-dimethylpropane-1,3-diol | 5.00 mmol, 0.521 g | CC(CO)(CO)C | C5H12O2
reactant | BF3.OEt2 | 0.500 mmol, 0.063 mL | B(F)(F)F.CCOCC
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | ethyl 2,5,5-trimethyl-1,3-dioxane-2-carboxylate | 681 mg | CC1(OCC(CO1)(C)C)C(=O)OCC | C10H18O4
